US09290451B2
b) 2-{[6-Cyclopropylmethoxy-5-(1H-pyrazol-3-yl)-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester
The title compound was synthesized in analogy to Example 1, using 6-cyclopropylmethoxy-5-(1H-pyrazol-3-yl)-pyridine-2-carboxylic acid and 2-methyl-alanine methyl ester as starting materials, MS (LC/MS): 359.1 [M+H]+.

reactant | 6-cyclopropylmethoxy-5-(1H-pyrazol-3-yl)-pyridine-2-carboxylic acid | C1(CC1)COC1=C(C=CC(=N1)C(=O)O)C1=NNC=C1 | C13H13N3O3
reactant | 2-methyl-alanine methyl ester | COC(C(N)(C)C)=O | C5H11NO2
product | 2-{[6-Cyclopropylmethoxy-5-(1H-pyrazol-3-yl)-pyridine-2-carbonyl]-amino}-2-methyl-propionic acid methyl ester | COC(C(C)(C)NC(=O)C1=NC(=C(C=C1)C1=NNC=C1)OCC1CC1)=O | C18H22N4O4
